US04820821
6.0 g (28.9 millimoles) of 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride in 40 ml of valeryl chloride were kept at 120° C. for 20 hours, while stirring. The mixture was cooled and then filtered under suction, and the residue was washed with acetone and recrystallized first from ethanol/methyl tert.-butyl ether and then from ethanol/acetone. 3.4 g (40% of theory) of 1,4-dihydro-1-phenyl-4-(valerylimino)-pyridazine hydrochloride were isolated as pale yellowish crystals of melting point 180°-182° C.

reactant | 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride | 28.9 millimoles, 6.0 g | Cl.N=C1C=NN(C=C1)C1=CC=CC=C1
reactant | valeryl chloride | 40 ml | C(CCCC)(=O)Cl | C5H9ClO
product | 1,4-dihydro-1-phenyl-4-(valerylimino)-pyridazine hydrochloride | 3.4 g, 40% | Cl.C1(=CC=CC=C1)N1N=CC(C=C1)=NC(CCCC)=O | InChI=1S/C15H17N3O.ClH/c1-2-3-9-15(19)17-13-10-11-18(16-12-13)14-7-5-4-6-8-14;/h4-8,10-12H,2-3,9H2,1H3;1H
